US09328110B2
The general method described in Step 6 of Example 22 was used to cyclize N4-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]quinoline-3,4-diamine (9.1 g, 28.9 mmol) by reaction with trimethyl orthobutyrate (4.4 g, 30 mmol) to provide 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-propyl-1H-imidazo[4,5-c]quinoline (3.10 g) as a solid after chromatography on silica gel (elution with a solution of 7% methanol in dichloromethane that contained about 5 mL of ammonium hydroxide solution per liter of eluent).

reactant | N4-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]quinoline-3,4-diamine | 28.9 mmol, 9.1 g | CC(CNC1=C(C=NC2=CC=CC=C12)N)(CC1(OCCO1)C)C | C18H25N3O2
reactant | trimethyl orthobutyrate | 30 mmol, 4.4 g | C(CCC)(OC)(OC)OC | C7H16O3
product | 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-propyl-1H-imidazo[4,5-c]quinoline | 3.10 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)(CC2(OCCO2)C)C | C22H29N3O2
